US03966956
condensing 4-methoxyphenylhydrazine or its salts with benzyl levulinoyloxyacetate according to Fischer to form (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate, subsequently acylating the alkali salt thereof with p-chlorobenzoyl chloride to form [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indole-acetoxy]-benzyl acetate and then catalytically dehydrogenating the benzyl group (see reaction scheme A),

reactant | 4-methoxyphenylhydrazine | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | benzyl levulinoyloxyacetate | C(CCC(=O)C)(=O)OCC(=O)OCC1=CC=CC=C1 | C14H16O5
product | (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C21H21NO5
